US05801176
N-[4-[4-(6-fluorobenzo[b]thien-3-yl)-1-piperazinyl]butyl]-2-methyl-propanamide
To a 0° C. solution of 4-(6-fluorobenzo[b]thien-3-yl)-1-piperazine-butanamine (4.04 g, 13.1 mmol), triethylamine (1.89 g, 18.6 mmol), and dichloromethane (50 mL) under a nitrogen atmosphere was added isobutyryl chloride (1.63 g, 15.3 mmol) over 6 minutes. The reaction was stirred at 0° C. for 4 hours and then was diluted with dichloromethane (140 mL). The mixture was washed successively with 5% aqueous NaOH (100 mL) and water (100 mL), dried (K2CO3), and concentrated in vacuo to give an off-white solid. The crude product was chromatographed on silica gel with 10% methanol/dichloromethane as eluent to afford an off-white solid. Recrystallization from ethyl acetate/heptane gave 2.17 g (43%) of the title compound as beige needles: m.p. 130°-131° C. TLC (silica gel, 10% methanol/dichloromethane) Rf =0.37. The IR(CHCl3), 1H NMR (CDCl3, 200 MHz), and MS (M+ 377, EI, 70 eV) were consistent for the assigned structure.

reactant | 4-(6-fluorobenzo[b]thien-3-yl)-1-piperazine-butanamine | 13.1 mmol, 4.04 g | FC=1C=CC2=C(SC=C2N2CCN(CC2)CCCCN)C1 | C16H22FN3S
reactant | triethylamine | 18.6 mmol, 1.89 g | C(C)N(CC)CC | C6H15N
reactant | isobutyryl chloride | 15.3 mmol, 1.63 g | C(C(C)C)(=O)Cl | C4H7ClO
solvent | dichloromethane | 140 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | N-[4-[4-(6-fluorobenzo[b]thien-3-yl)-1-piperazinyl]butyl]-2-methyl-propanamide | 2.17 g, 43% | FC=1C=CC2=C(SC=C2N2CCN(CC2)CCCCNC(C(C)C)=O)C1 | C20H28FN3OS
